US09290465B2
{3-[4-(3-Phenyl-propoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester (54 mg, 0.137 mmol) was dissolved in dioxane (9 mL) and treated with conc. HCl (1.5 mL). After stirring for 12 h at rt the reaction mixture was quenched with 10 mL of satd aqueous NaHCO3. The organic layer was separated and dried over Na2SO4. Filtration followed by removal of volatiles under reduce d pressure gave crude product. 3-[4-(3-Phenyl-propoxy)-phenyl]-isoxazol-4-ylamine (22 mg, 55%) was isolated as a white solid by column chromatography (30% ethyl acetate in hexanes). HRMS: 295.144 (M+1).

reactant | {3-[4-(3-Phenyl-propoxy)-phenyl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | 0.137 mmol, 54 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=CC=C(C=C1)OCCCC1=CC=CC=C1)=O | C23H26N2O4
reactant | HCl | 1.5 mL | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 9 mL | O1CCOCC1 | C4H8O2
product | 3-[4-(3-Phenyl-propoxy)-phenyl]-isoxazol-4-ylamine | 22 mg, 55% | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)C1=NOC=C1N | C18H18N2O2
